US05677439
Preparation of 3'-O-acetyl-5'-carbomethoxymethyl-5'-deoxythymidine
About 0.39 g sodium borohydride was added to a cold (ice bath) stirred, mixture of 3.17 g of 3'-O-acetyl-5'-carbomethoxymethylene-5'-deoxythymidine in 95 ml isopropanol. The mixture was stirred at 0° C. under nitrogen atmosphere for half an hour, then at room temperature for an additional four and one half hours.

reactant | sodium borohydride | 0.39 g | [BH4-].[Na+]
reactant | 3'-O-acetyl-5'-carbomethoxymethylene-5'-deoxythymidine | 3.17 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1C=CC(=O)OC)N1C(=O)NC(=O)C(C)=C1 | C15H18N2O7
solvent | isopropanol | 95 ml | C(C)(C)O | C3H8O
product | 3'-O-acetyl-5'-carbomethoxymethyl-5'-deoxythymidine | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CCC(=O)OC)N1C(=O)NC(=O)C(C)=C1 | C15H20N2O7
